US06995162B2
1-(6-Amino-3,3-dimethyl-2,3-dihydro-indol-1-yl)-2-(N-Boc-amino)-ethanone
1-(3,3-Dimethyl-6-nitro-2,3-dihydro-indol-1-yl)-2-(N-Boc-amino)-ethanone (3.9 g) was dissolved in EtOH (30 ml) and Fe powder (3.1 g) NH4Cl (299 mg) and H2O (5 ml) were added. The reaction was stirred at 80° C. overnight. The reaction was filtered through Celite® and evaporated off the MeOH. The residue was partitioned between CH2Cl2 and sat'd NaHCO3. The organic layer was removed, washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography (SiO2, 25% EtOAc/hexane). The purified fractions were concentrated in vacuo to afford the compound as a white powder.

reactant | 1-(3,3-Dimethyl-6-nitro-2,3-dihydro-indol-1-yl)-2-(N-Boc-amino)-ethanone | 3.9 g | CC1(CN(C2=CC(=CC=C12)[N+](=O)[O-])C(CNC(=O)OC(C)(C)C)=O)C | C17H23N3O5
reactant | H2O | 5 ml | O | H2O
solvent | EtOH | 30 ml | CCO | C2H6O
catalyst | Fe | 3.1 g | [Fe] | Fe
product | 1-(6-Amino-3,3-dimethyl-2,3-dihydro-indol-1-yl)-2-(N-Boc-amino)-ethanone | NC1=CC=C2C(CN(C2=C1)C(CNC(=O)OC(C)(C)C)=O)(C)C | C17H25N3O3
